US09079866B2
4′-(3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-3′-fluorobiphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 444 using 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine and 2-bromobenzenesulfonamide. MS (ESI): mass calcd. for C19H16FN3O3S, 385.09; m/z found, 386.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.14-8.11 (m, 1H), 7.80 (d, J=1.0, 1H), 7.73-7.71 (m, 1H), 7.68-7.62 (m, 1H), 7.61-7.52 (m, 2H), 7.39-7.31 (m, 3H), 4.40-4.34 (m, 2H), 3.75-3.69 (m, 2H).

reactant | 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine | FC1=C(C=CC(=C1)C1OC(C(O1)(C)C)(C)C)C1=CC=2OCCNC2N=C1 | C20H23FN2O3
reactant | 2-bromobenzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N | C6H6BrNO2S
product | 4′-(3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-3′-fluorobiphenyl-2-sulfonamide | O1C2=C(NCC1)N=CC(=C2)C2=C(C=C(C=C2)C=2C(=CC=CC2)S(=O)(=O)N)F | C19H16FN3O3S
